US05935952
In 127 ml of methylene chloride was suspended 1.27 g of ethyl 7-bromo-1-cyclopropyl-6-fluoro-8-hydroxymethyl-1,4-dihydro-4-oxoquinoline-3-carboxylate, and 1.33 g of diethylaminosulfur trifluoride was dropwise added to the suspension at -40° C., after which the resulting mixture was stirred at -20° C. for one hour and then at 0° C. for three hours. The reaction mixture was added to 120 ml of ice water and the pH was adjusted to 8 with a saturated aqueous sodium hydrogencarbonate solution. Thereafter, the organic layer formed was separated, washed with a saturated saline solution and then dried over anhydrous magnesium sulfate. The solvent was then removed by distillation under reduced pressure. The residue thus obtained was purified by a column chromatography (eluent: chloroform:ethanol=100:1), to obtain 1.05 g of colorless, crystalline ethyl 7-bromo-1-cyclopropyl-6-fluoro-8-fluoromethyl-1,4-dihydro-4-oxoquinoline-3-carboxylate.

reactant | ethyl 7-bromo-1-cyclopropyl-6-fluoro-8-hydroxymethyl-1,4-dihydro-4-oxoquinoline-3-carboxylate | 1.27 g | BrC1=C(C=C2C(C(=CN(C2=C1CO)C1CC1)C(=O)OCC)=O)F | C16H15BrFNO4
reactant | diethylaminosulfur trifluoride | 1.33 g | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 127 ml | C(Cl)Cl | CH2Cl2
product | ethyl 7-bromo-1-cyclopropyl-6-fluoro-8-fluoromethyl-1,4-dihydro-4-oxoquinoline-3-carboxylate | BrC1=C(C=C2C(C(=CN(C2=C1CF)C1CC1)C(=O)OCC)=O)F | C16H14BrF2NO3
